US06376491B1
To a solution of 4-(3-tert-butylamino-propoxy)-3-methyl-benzofuran-2-carboxylic acid ethyl ester (1.0 g) in dichloromethane (20 ml) was added di-tert-butyl dicarbonate (730 μl) at room temperature. The reaction mixture was stirred overnight and quenched with saturated ammonium chloride solution (10 ml) and washed with water (10 ml). The separated organic layer was dried over anhydrous sodium sulfate, then concentrated in vacuo to dryness. The residue was purified by silica gel column chromatography developed by dichloromethane-methanol to give 4-[3-(tert-butoxycarbonyl-tert-butyl-amino)-propoxy]-3-metliyl-benzofuran-2-carboxylic acid ethyl ester as white crystals (520 mg). FAB-MS: m/z 434 (MH+); 1H-NMR (CDCl3): δ 1.12-1.54 (21H, m), 2.09 (2H, m), 2.75 (3H, s), 3.52 (2H, dd, J=7.6 Hz, 9.9 Hz), 4.09 (2H, t, J=5.9 Hz), 4.43 (2H, q, J=7.3 Hz), 6.61 (1H, d, J=7.9 Hz), 7.12 (1H, d, J=8.6 Hz), 7.31 (1H, dd, J=8.6 Hz, 7.9 Hz).

reactant | 4-(3-tert-butylamino-propoxy)-3-methyl-benzofuran-2-carboxylic acid ethyl ester | 1.0 g | C(C)OC(=O)C=1OC2=C(C1C)C(=CC=C2)OCCCNC(C)(C)C | C19H27NO4
reactant | di-tert-butyl dicarbonate | 730 μl | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 4-[3-(tert-butoxycarbonyl-tert-butyl-amino)-propoxy]-3-metliyl-benzofuran-2-carboxylic acid ethyl ester | 520 mg | C(C)OC(=O)C=1OC2=C(C1C)C(=CC=C2)OCCCN(C(C)(C)C)C(=O)OC(C)(C)C | C24H35NO6
